US07335770B2
4-(4,6-Dichloro-[1,3,5]triazin-2-ylamino)-cyclohexanol (155a):
To cyanuric chloride (1.2209 g, 6.6 mmol) dissolved in acetone (15 mL) stirring at 0-5° C., was added a solution of trans-4-aminocyclohexanol hydrochloride (1.0044 g, 6.6 mmol) in acetone (15 mL) followed by the addition of 2.5 N NaOH (5.3 mL, 13.2 mmol). The reaction mixture was allowed to stir at 0-5° C. for 1 hour under nitrogen. The reaction mixture was extracted 3 times with dichloromethane; the combined organic layers were washed with brine solution and dried over sodium sulfate. The filtered sample was concentrated by rotary evaporation and the resulting solid was dried overnight under vacuum. The product was used with no further purification, (155a, 1.49 g, 86%), mp 120° C.; HPLC: Inertsil ODS-3V C18, 40:30:30 [KH2PO4 (0.01M, pH 3.2): CH3OH: CH3CN], 264 nm, Rt 6.1 min, 92.6% purity.

reactant | cyanuric chloride | 6.6 mmol, 1.2209 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | trans-4-aminocyclohexanol hydrochloride | 6.6 mmol, 1.0044 g | Cl.N[C@@H]1CC[C@H](CC1)O
reactant | NaOH | 13.2 mmol, 2.5 N, 5.3 mL | [OH-].[Na+]
solvent | acetone | 15 mL | CC(=O)C | C3H6O
solvent | acetone | 15 mL | CC(=O)C | C3H6O
product | 4-(4,6-Dichloro-[1,3,5]triazin-2-ylamino)-cyclohexanol | ClC1=NC(=NC(=N1)Cl)NC1CCC(CC1)O | C9H12Cl2N4O
